US07906517B2
(2-Benzyloxy-5-trifluoromethyl-benzyl)-(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amine (3.75 g) is dissolved in toluene (50 ml) and thereto are added tris(dibenzylideneacetone)dipalladium (516 mg), 2-(di-tert-butylphosphino)biphenyl (673 mg), sodium tert-butoxide (813 mg) and morpholine (740 μl), and the mixture is stirred under nitrogen atmosphere at room temperature overnight. To the reaction solution are added a saturated aqueous sodium bicarbonate solution and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by NH-silica gel column chromatography (hexane:ethyl acetate=9:1→4:1) to give (2-benzyloxy-5-trifluoromethyl-benzyl)-(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amine (2.46 g). MS (m/z): 671 [M+H]+

reactant | (2-Benzyloxy-5-trifluoromethyl-benzyl)-(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amine | 3.75 g | C(C1=CC=CC=C1)OC1=C(CN(C2=NC=C(C=N2)Br)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F | C28H19BrF9N3O
reactant | 2-(di-tert-butylphosphino)biphenyl | 673 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium tert-butoxide | 813 mg | CC(C)([O-])C.[Na+]
reactant | morpholine | 740 μl | N1CCOCC1 | C4H9NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 516 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-benzyloxy-5-trifluoromethyl-benzyl)-(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amine | 2.46 g | C(C1=CC=CC=C1)OC1=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F | C32H27F9N4O2
